US07115596B2
Tert-butyl 1,6-dimethyl-2,3-dihydropyrido[2,3-b]pyrazine-4(1H)-carboxylate
A solution of 1,6-dimethyl-1,2,3,4-tetrahydropyrido[2,3-b]pyrazine (1.14 g, 7 mmol), di-tert-butyl dicarbonate (2.29 g, 10.5 mmol), DMAP (100 mg) and triethylamine (1.46 mL, 10.5 mmol) in 30 mL THF was refluxed 72 hours under N2. The reaction mixture was allowed to cool to room temperature and diluted with ethyl acetate. The mixture was washed with brine, dried over Na2SO4. After filtration and concentration at reduced pressure, the crude mixture was purified by flash chromatography on silica gel (40% EA/Hex) to afford the desired product (1.60 g, 90% yield) as yellow oil. H NMR (CDCl3) δ 1.51 (s, 9H), 2.40 (s, 3H), 2.90 (s, 3H), 3.28 (t, 2H), 3.83 (m, 2H), 6.78 (d, 1H), 6.83(d, 2H).

reactant | 1,6-dimethyl-1,2,3,4-tetrahydropyrido[2,3-b]pyrazine | 7 mmol, 1.14 g | CN1C2=C(NCC1)N=C(C=C2)C | C9H13N3
reactant | di-tert-butyl dicarbonate | 10.5 mmol, 2.29 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | triethylamine | 10.5 mmol, 1.46 mL | C(C)N(CC)CC | C6H15N
catalyst | DMAP | 100 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Tert-butyl 1,6-dimethyl-2,3-dihydropyrido[2,3-b]pyrazine-4(1H)-carboxylate | 1.60 g, 90% yield | CN1C2=C(N(CC1)C(=O)OC(C)(C)C)N=C(C=C2)C | C14H21N3O2
